US07718693B2
1-methyl-5-oxoproline (0.050 g, 0.35 mmol, prepared in a manner analogous to that described above for example 51), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.081 g, 0.42 mmol), 1-hydroxybenzotriazole (0.057 g, 0.42 mmol), N-ethyl morpholine (0.166 ml, 1.05 mmol) and (1-naphthalenylmethyl)amine were combined in dichloromethane (˜8 ml) and the mixture was stirred for ˜20 hrs at room temperature. The mixture was then washed with 2M aqueous hydrogen chloride (5 ml) and the organic layer was separated using a phase separator. The organic layer was washed with saturated aqueous sodium hydrogen carbonate, separated as before, and then evaporated. The residue was purified by mass-directed automated HPLC to give pure 1-methyl-N-(1-naphthalenylmethyl)-5-oxoprolinamide as a white solid (0.062 g).

reactant | 1-methyl-5-oxoproline | CN1[C@H](C(=O)O)CCC1=O | C6H9NO3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.42 mmol, 0.081 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.42 mmol, 0.057 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl morpholine | 1.05 mmol, 0.166 ml | C(C)N1CCOCC1 | C6H13NO
reactant | (1-naphthalenylmethyl)amine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
solvent | dichloromethane | ˜8 ml | ClCCl | CH2Cl2
product | 1-methyl-N-(1-naphthalenylmethyl)-5-oxoprolinamide | 0.062 g | CN1[C@H](C(=O)NCC2=CC=CC3=CC=CC=C23)CCC1=O | C17H18N2O2
